* tb_ls_delay.spice — Propagation delay measurement
* Block 06: Level Shifter — TT 27C, BVDD=7V
*
.include design.cir
.lib /home/ubuntu/pdk/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.option method=gear reltol=1e-4

* Supplies
Vsvdd svdd 0 2.2
Vbvdd bvdd 0 7.0
Vpvdd pvdd 0 5.0

* Load
Cload_up out_up 0 1p
Cload_dn out_dn 0 1p

* Input stimulus
Vin_up in_up 0 PULSE(0 2.2 50n 1n 1n 200n 400n)
Vin_dn in_dn 0 PULSE(0 5.0 50n 1n 1n 200n 400n)

* DUT
Xup in_up out_up bvdd svdd 0 level_shifter_up
Xdn in_dn out_dn pvdd svdd 0 level_shifter_down

.tran 0.1n 800n

.control
run

* Delay: 50% input to 50% output crossings
meas tran tplh_up TRIG v(in_up) VAL=1.1 RISE=1 TARG v(out_up) VAL=3.5 RISE=1
meas tran tphl_up TRIG v(in_up) VAL=1.1 FALL=1 TARG v(out_up) VAL=3.5 FALL=1
meas tran tplh_dn TRIG v(in_dn) VAL=2.5 RISE=1 TARG v(out_dn) VAL=1.1 RISE=1
meas tran tphl_dn TRIG v(in_dn) VAL=2.5 FALL=1 TARG v(out_dn) VAL=1.1 FALL=1

echo "=== tb_ls_delay results (TT 27C) ==="
echo "tplh_up:" "$&tplh_up"
echo "tphl_up:" "$&tphl_up"
echo "tplh_dn:" "$&tplh_dn"
echo "tphl_dn:" "$&tphl_dn"

* Find max delay across all edges (convert to ns)
let d1 = tplh_up * 1e9
let d2 = tphl_up * 1e9
let d3 = tplh_dn * 1e9
let d4 = tphl_dn * 1e9

let dmax = d1
if d2 > dmax
  let dmax = d2
end
if d3 > dmax
  let dmax = d3
end
if d4 > dmax
  let dmax = d4
end

echo "delay_max_ns_tt:" "$&dmax"

quit
.endc

.end
